US04933447
5-Chloro-8-quinolinecarbonitrile, 0.50 g, and imidazole, 1.80 g, were dissolved into 30 ml of pyridine. To the solution 0.36 g of anhydrous potassium carbonate was added and the mixture was heated under reflux for 8 hours. After separating indissolved substance by filtration, the solvent was evaporated and the residue was refined by column chromatography on silica gel using chloroform as an eluent. The crystals obtained were recrystallized from ethanol to yield 0.35 g (yield: 60%) of 5-imidazolyl-8-quinolinecarbonitrile (Compound No. 20).

reactant | 5-Chloro-8-quinolinecarbonitrile | ClC1=C2C=CC=NC2=C(C=C1)C#N | C10H5ClN2
reactant | imidazole | N1C=NC=C1 | C3H4N2
reactant | potassium carbonate | 0.36 g | C([O-])([O-])=O.[K+].[K+]
solvent | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
product | 5-imidazolyl-8-quinolinecarbonitrile | 0.35 g, yield: 60% | N1C(=NC=C1)C1=C2C=CC=NC2=C(C=C1)C#N | C13H8N4
